US08748650B2
Under a nitrogen atmosphere, 428 mg (2 mmol) of diphenyl carbonate and 5 mL of acetonitrile were loaded into a round bottom flask having a volume of 100 mL, and then the mixture was stirred at room temperature. Next, 813 mg (2 mmol) of tetrabutylammonium phenylalanine salt and 15 mL of acetonitrile were dropped to the solution, and then the mixture was stirred for 15 minutes. After that, a 1M aqueous HCl solution was added to the reaction solution to terminate the reaction, and then the resultant was concentrated with an evaporator. Next, water was added to the concentrated product, and then the resultant was extracted with ethyl acetate. The resultant organic layer was washed with water and brine, and was then dried with sodium sulfate. After that, the dried product was concentrated with an evaporator. Thus, a crude product was obtained. Next, the crude product was purified by column chromatography. Thus, N-phenoxycarbonyl-L-alanine was obtained. An isolation amount and an isolation yield were 445.0 mg and 78%, respectively.

reactant | diphenyl carbonate | 2 mmol, 428 mg | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | tetrabutylammonium phenylalanine salt | 2 mmol, 813 mg | N[C@@H](CC1=CC=CC=C1)C(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 1M | Cl | ClH
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-phenoxycarbonyl-L-alanine | O(C1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O | C10H11NO4
